US04889947
4a-Carboethoxy-7-hydroxy-4,4a,5,6-tetrahydro-2(3H)-naphthalenone
This material is prepared according to the procedure for Preparation 6 wherein Hagemann's ester (ethyl 2-methyl-4-oxocyclohex-2-enyl-1-carboxylate) is substituted for carvone and ethyl 3-chloropropionate is substituted for ethyl vinyl ketone.

reactant | Hagemann's ester | CCOC(=O)C1CCC(=O)C=C1C | C10H14O3
reactant | carvone | CC1=CCC(CC1=O)C(=C)C | C10H14O
reactant | ethyl 3-chloropropionate | ClCCC(=O)OCC | C5H9ClO2
reactant | ethyl vinyl ketone | C(=C)C(=O)CC | C5H8O
product | 4a-Carboethoxy-7-hydroxy-4,4a,5,6-tetrahydro-2(3H)-naphthalenone | C(=O)(OCC)C12CCC(C=C2C=C(CC1)O)=O | C13H16O4
